US05631401
N-((2R)-5-Phenyl-2-methyl-1-oxopentyl)-N-(n-propyl)amine
A solution of the compound resulting from Example 82A (0.12 g, 0.63 mmol), n-propylamine (0.052 mL, 0.63 mmol), EDCl (0.14 g, 0.73 mmol), HOBT (0.02 g, 1.4 mmol), Et3N (0.10 mL, 0.73 mmol), and 3.5 mL anydrous THF was stirred at room temperature for 24 hours. Water was added, and the mixture was extracted with EtOAc (3×). The combined organic layers were washed with 5% sodium bicarbonate, H2O, 1N HCl and saturated NaCl solution, dried (MgSO4), filtered, and concentrated in vacuo to afford the title compound (0.13 g) as a colorless oil. 1H NMR (300 MHz, CDCl3) δ 0.90 (t, 3H), 1.12 (d, 3H), 1.38-1.58 (m, 3H), 1.59-1.78 (m, 3H), 2.15 (m, 1H), 2.60 (m, 2H), 3.20 (q, 2H), 5.35 (brs, 1H) 7.20 (t, 3H), 7.28 (m,2H). MS (DCl/NH3) m/e 234 (M+H)+.

reactant | n-propylamine | 0.63 mmol, 0.052 mL | C(CC)N | C3H9N
reactant | EDCl | 0.73 mmol, 0.14 g | CCN=C=NCCCN(C)C.Cl
reactant | HOBT | 1.4 mmol, 0.02 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | Et3N | 0.73 mmol, 0.10 mL | CCN(CC)CC | C6H15N
reactant | Water | O | H2O
solvent | THF | 3.5 mL | C1CCOC1 | C4H8O
product | N-((2R)-5-Phenyl-2-methyl-1-oxopentyl)-N-(n-propyl)amine | 0.13 g | C1(=CC=CC=C1)CCC[C@H](C(=O)NCCC)C | C15H23NO
